US04666510
A solution of 2-butyryl-3-hydroxy-5-(3-formyl-2,4,6-trimethylphenyl)cyclohex-2-en-1-one (1.50 g) and hydroxylamine hydrochloride (0.35 g) in 98% formic acid (7 ml) was refluxed for an hour and then allowed to cool. The mixture was diluted with ice water and the precipitate collected. Purification by column chromatography over silica gel (eluant dichloromethane) gave 2-butyryl-3-hydroxy-5-(3-cyano-2,4,6-trimethylphenyl)cyclohex-2-en-1-one (0.67 g; 44%) as a pale yellow oil. Proton nuclear magnetic resonance spectrum (CDCl3 ; δ in ppm): 1.00 (3H, t); 1.68 (2H, m); 2.45 (6H, s); 2.60 (3H, s); 2.65-4.20 (7H, m); 7.42 (1H, s); 18.35 (1H, s).

reactant | 2-butyryl-3-hydroxy-5-(3-formyl-2,4,6-trimethylphenyl)cyclohex-2-en-1-one | 1.50 g | C(CCC)(=O)C=1C(CC(CC1O)C1=C(C(=C(C=C1C)C)C=O)C)=O | C20H24O4
reactant | hydroxylamine hydrochloride | 0.35 g | Cl.NO
solvent | formic acid | 7 ml | C(=O)O | CH2O2
product | 2-butyryl-3-hydroxy-5-(3-cyano-2,4,6-trimethylphenyl)cyclohex-2-en-1-one | 0.67 g, 44% | C(CCC)(=O)C=1C(CC(CC1O)C1=C(C(=C(C=C1C)C)C#N)C)=O | C20H23NO3
